US07683079B2
Step E] 3-Butyl-1-phenethyl-piperidine-4-ylamine
3-Butyl-1-phenethyl-piperidine-4-one oxime (218 mg) was dissolved in THF (10 ml) and LAH (261 mg) was added in one portion. The suspension was then allowed to stir at RT for 24 hours. The reaction mixture was carefully pipetted onto 5% aq. NaHCO3 solution and the aqueous layer was extracted with DCM. The organic layer was washed with brine, dried (MgSO4) and evaporated to give a colorless oil. This was purified by flash chromatography (gradient of MeOH in DCM containing 1% NH4OH) to give the product as cis and trans diastereomers (cis: 127 mg; trans: 36 mg). MS (ESI): 261.4 (MH+).

reactant | 3-Butyl-1-phenethyl-piperidine-4-one oxime | 218 mg | C(CCC)C1CN(CCC1=NO)CCC1=CC=CC=C1 | C17H26N2O
reactant | LAH | 261 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-Butyl-1-phenethyl-piperidine-4-ylamine | C(CCC)C1CN(CCC1N)CCC1=CC=CC=C1 | C17H28N2
